US08378104B2
Step G: 3-bromothieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate
A sealable vial was charged with thieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate (109 mg, 0.300 mmol), sodium acetate (75.3 mg, 0.900 mmol) and 1.0 M bromine in AcOH (0.900 mL, 0.900 mmol). The reaction was heated in a microwave reactor at 90° C. for 2 h. The reaction mixture was treated with aqueous Na2CO3 until the pH was >9, then extracted with EtOAc (3×20 mL). The combined extracts were washed with water (10 mL) and brine (10 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by ISCO chromatography (0 to 25% EtOAc:heptane) to afford 60 mg (55%) of the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 9.26 (d, J=0.4 Hz, 1 H), 8.61 (s, 1 H), 7.92 (d, J=1.2 Hz, 1H); MS (ESI): 362.08, 384.04 [M+H]+; HPLC tR=4.39 min (ZQ3: polar—5 min).

reactant | thieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate | 0.300 mmol, 109 mg | FC(S(=O)(=O)OC=1C=C2C(=CN1)SC=C2)(F)F | C8H4F3NO3S2
reactant | sodium acetate | 0.900 mmol, 75.3 mg | C(C)(=O)[O-].[Na+]
reactant | bromine | 1.0 M | BrBr | Br2
reactant | AcOH | 0.900 mmol, 0.900 mL | CC(=O)O | C2H4O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 3-bromothieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate | 60 mg, 55% | FC(S(=O)(=O)OC=1C=C2C(=CN1)SC=C2Br)(F)F | C8H3BrF3NO3S2
